US07666868B2
52. (E)-N-(2-Amino-phenyl)-3-{1-[4-(3,5-dimethyl-isoxazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide
A mixture of 0.020 g [2-((E)-3-{1-[4-(3,5-dimethyl-isoxazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-allanoylamino)-phenyl]-carbamic acid tert-butyl ester with a little amount of dioxane and 3 ml 4M HCL in dioxane is stirred at ambient temperature for 1 h. The suspension is centrifuged. The title compound is dried in vacuo. By this method 0.013 g of a red-brown amorph substance are obtained.

reactant | [2-((E)-3-{1-[4-(3,5-dimethyl-isoxazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-allanoylamino)-phenyl]-carbamic acid tert-butyl ester | 0.020 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C=1C(=NOC1C)C)=O)=O | C29H30N4O6S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (E)-N-(2-Amino-phenyl)-3-{1-[4-(3,5-dimethyl-isoxazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide | NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C=1C(=NOC1C)C)=O | C24H22N4O4S
